US05190723
(3,5-Di-tert-butyl-4-hydroxybenzyl)-3-mercapto-1,2,4-triazole
3-Mercapto-1,2,4-triazole (20.2 g, 0.2 mol), 2,6-di-tertbutylphenol (41.2 g, 0.2 mol), paraformaldehyde (6.0 g, 0.2M) and di-n-butylamine (2 ml) are heated, under reflux, in ethanol (100 ml) for ten hours. The reaction mixture is cooled, and the product is crystallised as a white solid (43 g, 67% of theory) having a m.p. of 184°-185° C. (Found C=63.39; H=8.03; N=13.29; S=10.20 C17H25N3OS requires C=63.95; H=7.84; N=13.17 and S=10.03%).

reactant | 3-Mercapto-1,2,4-triazole | 0.2 mol, 20.2 g | SC1=NNC=N1 | C2H3N3S
reactant | 2,6-di-tertbutylphenol | 0.2 mol, 41.2 g | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | paraformaldehyde | 0.2M, 6.0 g | C=O | CH2O
reactant | di-n-butylamine | 2 ml | C(CCC)NCCCC | C8H19N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | (3,5-Di-tert-butyl-4-hydroxybenzyl)-3-mercapto-1,2,4-triazole | C(C)(C)(C)C=1C=C(CC2=NC(=NN2)S)C=C(C1O)C(C)(C)C | C17H25N3OS
